US08124636B2
To a solution of 4-amino-adamantan-1-ol (0.58 g, g, 0.0035 mol) in DMF (12 mL) was added (S)-4,4-difluoro-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester (1.0 g, CAS: 72180-27-9, Journal of Medicinal Chemistry, 2007, 50(20), 4953-4975), NMM (0.9 mL) and HOBT (0.644 g), and the reaction was stirred for 10 minutes. EDCI (0.80 g) was then added and the reaction mixture was stirred at room temperature for 5 h. The reaction was diluted with water (30 mL). The aqueous layer was extracted with ethyl acetate (3×10 mL). The organic layer was separated and dried over anhydrous Na2SO4. Concentration of the organic layer under reduced pressure using rotary evaporator gave sticky crude material, which was purified through column chromatography (10-20% ethyl acetate:hexane, silica 100-200, Diameter of column—2.5 cm, Height of silica—approx. 7 inch) to give the desired (S)-4,4-difluoro-2-(5-hydroxy-adamantan-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (1.2 g, 78%) as a white solid.

reactant | 4-amino-adamantan-1-ol | 0.0035 mol, 0.58 g | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
reactant | (S)-4,4-difluoro-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | 1.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O | C13H13F2NO4
reactant | NMM | 0.9 mL | CN1CCOCC1 | C5H11NO
reactant | HOBT | 0.644 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.80 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | (S)-4,4-difluoro-2-(5-hydroxy-adamantan-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 1.2 g, 78% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC(C1)(F)F)C(NC1C2CC3CC(CC1C3)(C2)O)=O | C23H28F2N2O4
